US07598397B2
Synthesis of 2,4-Dichloro-benzoic acid 2-amino-3-nitro-phenyl ester, I-113.
To a 500 mL, round-bottomed, one-necked flask equipped with a magnetic stir bar and a septum was added 2-amino-3-nitrophenol (4.25 g, 27.6 mmol), anhydrous CH2Cl2 (140 mL), 4-(dimethylamino)pyridine (3.37 g, 27.6 mmol) and 2,4-dichlorobenzoyl chloride (5.78 g, 3.87 mL, 27.6 mmol). The reaction mixture was allowed to stir at room temperature overnight. TLC analysis indicated the complete consumption of starting material. The reaction mixture was diluted with CH2Cl2 (300 mL) and the mixture was washed with H2O (2×200 mL), dried (Na2SO4), and concentrated to give 8.91 g (98.7%) of a yellow-orange solid. 1H NMR analysis indicated the material, I-113 was pure enough to carry on to the next step. 1H NMR (500 MHz, CDCl3).

reactant | 2-amino-3-nitrophenol | 27.6 mmol, 4.25 g | NC1=C(C=CC=C1[N+](=O)[O-])O | C6H6N2O3
reactant | 2,4-dichlorobenzoyl chloride | 27.6 mmol, 3.87 mL, 5.78 g | ClC1=C(C(=O)Cl)C=CC(=C1)Cl | C7H3Cl3O
catalyst | 4-(dimethylamino)pyridine | 27.6 mmol, 3.37 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | CH2Cl2 | 140 mL | C(Cl)Cl | CH2Cl2
product | 2,4-Dichloro-benzoic acid 2-amino-3-nitro-phenyl ester | 8.91 g, 98.7% | NC1=C(C=CC=C1[N+](=O)[O-])OC(C1=C(C=C(C=C1)Cl)Cl)=O | C13H8Cl2N2O4
